US07834051B2
(4S,5S)-5-ethyl-4-hydroxy-4-methylpyrrolidin-2-one
A solution of diisopropylamine (7.50 g) in tetrahydrofuran (110 mL) was ice-cooled under a nitrogen atmosphere, and 1.6 mol/L n-butyllithium-hexane solution (45.4 mL) was added. The mixture was stirred at the same temperature for 30 min, and the reaction solution was cooled with dry ice/acetone. Ethyl acetate (7.17 mL) was added to the reaction solution, and the mixture was stirred at the same temperature for 1 hr. A solution of tert-butyl[(1S)-1-ethyl-2-oxopropyl]carbamate (9.75 g) in tetrahydrofuran (60 mL) was added, and the mixture was stirred at the same temperature for 5.5 hr. A saturated aqueous ammonium chloride solution (200 mL) was added, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated aqueous ammonium chloride solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=10→30%) and the obtained oil was dissolved in 4 mol/L hydrogen chloride-ethyl acetate solution (80 mL), and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated under reduced pressure, the residue was dissolved in tetrahydrofuran (285 mL), and diisopropylethylamine (22.2 mL) was added. The reaction solution was refluxed under heating for 4 hr, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: methanol/ethyl acetate=3→13%), and the obtained solid was recrystallized from ethyl acetate/hexane to give the title compound as colorless crystals (yield: 4.69 g, 68%).

reactant | diisopropylamine | 7.50 g | C(C)(C)NC(C)C | C6H15N
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | tert-butyl[(1S)-1-ethyl-2-oxopropyl]carbamate | 9.75 g | C(C)(C)(C)OC(N[C@H](C(C)=O)CC)=O | C10H19NO3
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | Ethyl acetate | 7.17 mL | C(C)(=O)OCC | C4H8O2
product | (4S,5S)-5-ethyl-4-hydroxy-4-methylpyrrolidin-2-one | yield: 4.69 g, 68% | C(C)[C@H]1[C@@](CC(N1)=O)(C)O | C7H13NO2
